US04590205
5-Chloro-2,3-bis(4-methoxyphenyl)thiophene
A solution of N-chlorosuccinimide (2.92 g, 22 mmole) in 50 ml methylene chloride was added to a solution of 2,3-bis(4-methoxyphenyl)thiophene (5.92 g, 20 mmole) in 70 ml methylene chloride and 75 ml acetic acid. After 45 minutes at room temperature, the reaction mixture was heated at reflux for 18 hours. The cooled reaction mixture was then concentrated in vacuo.

reactant | N-chlorosuccinimide | 22 mmole, 2.92 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2,3-bis(4-methoxyphenyl)thiophene | 20 mmole, 5.92 g | COC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)OC | C18H16O2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 5-Chloro-2,3-bis(4-methoxyphenyl)thiophene | ClC1=CC(=C(S1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H15ClO2S
